US04831149
A suspension of sodium hydride (60 % oil; 50 mg) in N,N-dimethylformamide (3 ml) was cooled to 0° C., and 3-chloro-2-(6-fluoro-2(3H)-benzothiazolon-5-yl)-4,5,6,7-tetrahydro-2H-indazole (390 mg) was added thereto at 0° C., followed by stirring at the same temperature for 30 minutes. To the suspension, propargyl bromide (160 mg) was added, and the resultant mixture was heated to a temperature of 50° to 60° C. and allowed to react at the same temperature for 2 to 3 hours. Water was added to the reaction mixture, which was extracted with ethyl acetate. The extract was washed with water, dried and concentrated. The residue was purified by silica gel thin layer chromatography using a mixture of ethyl acetate and hexane (1 : 4) as a developing solvent to give 3-chloro-2-[6-fluoro-3-(2-propynyl)-2H-benzothiazolon5-yl]-4,5,6,7-tetrahydro-2H-indazole (24.1 mg). m.p., 130°- 132° C.

reactant | sodium hydride | 50 mg | [H-].[Na+]
reactant | 3-chloro-2-(6-fluoro-2(3H)-benzothiazolon-5-yl)-4,5,6,7-tetrahydro-2H-indazole | 390 mg | ClC=1N(N=C2CCCCC12)C=1C(=CC2=C(NC(S2)=O)C1)F | C14H11ClFN3OS
reactant | propargyl bromide | 160 mg | C(C#C)Br | C3H3Br
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 3-chloro-2-[6-fluoro-3-(2-propynyl)-2H-benzothiazolon5-yl]-4,5,6,7-tetrahydro-2H-indazole | 24.1 mg | ClC=1N(N=C2CCCCC12)C=1C(=CC2=C(N(CS2=O)CC#C)C1)F | C17H15ClFN3OS
